US07632838B2
Sulfonylation of 1-(3-chloropyridin-2-yl)piperazine (316 mg, 1.6 mmol) with naphthalene-1-sulfonyl chloride (362.7 mg, 1.6 mmol) was carried out according to a similar procedure described for example 2A (Except sulfonyl chloride was added before diisopropylethylamine) using anhydrous dichloromethane (3 mL) as solvent and diisopropylethylamine (1.4 mL, 8.0 mmol) as base. 1-(3-chloropyridin-2-yl)-4-(1-naphthylsulfonyl)piperazine was obtained in 70.0% yield (434.0 mg) as white solid.

reactant | 1-(3-chloropyridin-2-yl)piperazine | 1.6 mmol, 316 mg | ClC=1C(=NC=CC1)N1CCNCC1 | C9H12ClN3
reactant | naphthalene-1-sulfonyl chloride | 1.6 mmol, 362.7 mg | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
reactant | sulfonyl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | diisopropylethylamine | 8.0 mmol, 1.4 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 1-(3-chloropyridin-2-yl)-4-(1-naphthylsulfonyl)piperazine | 70.0% yield | ClC=1C(=NC=CC1)N1CCN(CC1)S(=O)(=O)C1=CC=CC2=CC=CC=C12 | C19H18ClN3O2S
